US05874436
N,N'-Bis(t-butoxycarbonyl)-N"-(3-hydroxyphenyl)methylguanidine
3-hydroxybenzylamine, prepared as above (1.23 g) and N,N'-bis(tert-butoxycarbonyl)-S-methylisothiourea (2.90 g) were combined in 100 mL DMF, and silver acetate (2.9 g) was added in three portions over 30 min with mechanical stirring. The mixture became thick and a yellow color developed. After 1 hr, the mixture was diluted with 300 mL water, and the solids collected by filtration, re-suspended in dichloromethane, filtered to remove silver salts, and chromatographed on silica gel with 10% ethyl acetate in dichloromethane. Recrystallization provided the title compound as a white solid, mp 169°-172° C. (dec) (2.2 g, 61%).

reactant | 3-hydroxybenzylamine | OC=1C=C(CN)C=CC1 | C7H9NO
reactant | N,N'-bis(tert-butoxycarbonyl)-S-methylisothiourea | 2.90 g | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
catalyst | silver acetate | 2.9 g | C(C)(=O)[O-].[Ag+]
product | N,N'-Bis(t-butoxycarbonyl)-N"-(3-hydroxyphenyl)methylguanidine | C(C)(C)(C)OC(=O)NC(=NCC1=CC(=CC=C1)O)NC(=O)OC(C)(C)C | C18H27N3O5
